US07906652B2
3-[(S)-(3-{(1S)-1-[3-(5-amino-1,3,4-oxadiazol-2-yl)-5-fluorophenyl]-2-fluoro-2-methylpropyl}azetidin-1-yl)(4-chlorophenyl)methyl]benzonitrile
To a mixture of 53 mg (0.104 mmol) of 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl) methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide in 3 mL of dioxane, 11.4 mg (0.135 mmol) of NaHCO3 in 1 mL of water was added 13 mg (0.125 mmol) cyanogen bromide and the solution was stirred at rt. After 2.5 h, it was concentrated to remove solvents. The residue was dissolved in 20 mL of CH2Cl2 and 5 mL of water and the pH was adjusted to 7-8 with aq NaHCO3. The aqueous layer was extracted with CH2Cl2, and the combined organic layer was concentrated. The residue was purified by silica gel chromatography with CH2Cl2/acetone to afford the title compound as a white solid; 1H-NMR (CDCl3) δ 1.22(d, 3H, J=22 Hz), 1.28(d, 3H, J=22 Hz), 2.34 (br, 1H) 2.88 (br, 1H), 2.96 (m, 1H), 3.10 (dr, 1H), 3.24 (m, 1H), 3.63 (br, 1H), 4.27 (s, 1H), 5.50(s, 2H), 7.01-7.66 (m, 11H); Mass Spectrum: m/e=534 (M+1, 35Cl), 536 (M+1, 37Cl).

reactant | 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl) methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide | 0.104 mmol, 53 mg | ClC1=CC=C(C=C1)[C@H](N1CC(C1)[C@H](C(C)(C)F)C=1C=C(C(=O)NN)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H27ClF2N4O
reactant | NaHCO3 | 0.135 mmol, 11.4 mg | C(=O)(O)[O-].[Na+]
reactant | cyanogen bromide | 0.125 mmol, 13 mg | N#CBr | CBrN
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | 3-[(S)-(3-{(1S)-1-[3-(5-amino-1,3,4-oxadiazol-2-yl)-5-fluorophenyl]-2-fluoro-2-methylpropyl}azetidin-1-yl)(4-chlorophenyl)methyl]benzonitrile | NC1=NN=C(O1)C=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C29H26ClF2N5O
